US06599917B1
d) (3R)-3-[2-Benzyl-6-(3,3-ethylenedioxy-2-pyrrolidinone-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol
7 ml of N,N-dimethylformamide was added to a mixture of 1.1 g of 2-benzyl-6-(3,3-ethylenedioxy-2-pyrrolidinone-1-yl)-3-pyridyl trifluoromethanesulfonate, 437 mg of (3R)-3-ethynyl-3-quinuclidinol, 168 mg of tetrakis(triphenylphosphine)palladium(0), 24 mg of cuprous iodide and 1.1 ml of triethylamine, followed by heating under stirring at 60° C. in an oil bath for 1.3 hours in a nitrogen atmosphere. After cooling as it was, ethyl acetate and aqueous ammonia were added thereto and the mixture was extracted with ethyl acetate. The organic phase was further washed with brine, dried over anhydrous sodium sulfate and the solvent was removed. The residue was subjected to NH-silica gel column chromatography using 66% ethyl acetate/hexane and 2% methanol/ethyl acetate as eluents for separation and purification, to give 669 mg of the target compound.

reactant | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
reactant | 2-benzyl-6-(3,3-ethylenedioxy-2-pyrrolidinone-1-yl)-3-pyridyl trifluoromethanesulfonate | 1.1 g | FC(S(=O)(=O)OC=1C(=NC(=CC1)N1C(C2(CC1)OCCO2)=O)CC2=CC=CC=C2)(F)F | C19H17F3N2O6S
reactant | (3R)-3-ethynyl-3-quinuclidinol | 437 mg | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | ammonia | N | H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 168 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
product | (3R)-3-[2-Benzyl-6-(3,3-ethylenedioxy-2-pyrrolidinone-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol | 669 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#C[C@]1(CN2CCC1CC2)O)N2C(C1(CC2)OCCO1)=O | C27H29N3O4
